US07074787B2
(3-Chloro-phenyl)-{4-[2-(2-oxo-[1,2,3]oxathiazolidin-3-yl)-pyridin-4-yl]-pyrimidin-2-yl}-amine
A solution of sulfonyl chloride (0.63 g, 5.3 mmol) in THF (2 ml) is added within 5 minutes to a solution of 2-{4-(2-(3-chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-ylamino}-ethanol (1.50 g, 4.4 mmol) and triethylamine (3.0 ml, 22 mmol) in absolute THF (20 ml) at +5° C. After stirring the resulting suspension for four hours at room temperature it is partitioned between ethyl acetate and water. The organic phase is separated, dried over magnesium sulfate, filtered and evaporated under reduced presssure. The residue is purified by silicagel chromatography to give the title compound, m.p. 202–203° C.

reactant | sulfonyl chloride | 5.3 mmol, 0.63 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-{4-(2-(3-chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-ylamino}-ethanol | 4.4 mmol, 1.50 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCCO | C17H16ClN5O
reactant | triethylamine | 22 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (3-Chloro-phenyl)-{4-[2-(2-oxo-[1,2,3]oxathiazolidin-3-yl)-pyridin-4-yl]-pyrimidin-2-yl}-amine | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1S(OCC1)=O | C17H14ClN5O2S
